US06492383B1
A. Preparation of 4-[7-(2-methyl-1H-Indol-5-ylamino)-thieno[3,2-b]pyridin-2-yl]-benzaldehyde
The title compound was prepared from 4-formylbenzeneboronic acid and (2-bromo-thieno[3,2-b]pyridin-7-yl)-(2-methyl-1H-indol-5-yl)-amine by a procedure analogous to example 17. RP18-HPLC RT: 5.391 minutes; API MS: 384.29 (M+1).

reactant | 4-formylbenzeneboronic acid | C(=O)C1=CC=C(C=C1)B(O)O | C7H7BO3
reactant | (2-bromo-thieno[3,2-b]pyridin-7-yl)-(2-methyl-1H-indol-5-yl)-amine | BrC1=CC2=NC=CC(=C2S1)NC=1C=C2C=C(NC2=CC1)C | C16H12BrN3S
product | 4-[7-(2-methyl-1H-Indol-5-ylamino)-thieno[3,2-b]pyridin-2-yl]-benzaldehyde | CC=1NC2=CC=C(C=C2C1)NC1=C2C(=NC=C1)C=C(S2)C2=CC=C(C=O)C=C2 | C23H17N3OS
